Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])=[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:14],2.9595903636500003
[H:1][C:2](=[C:3]=[O:4])[C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],0.2328544955
[O:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])[C@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])([H:12])[H:13],1.64191080585
[H:11].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[O:12][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-4.2205584061
[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.987947974739
[H:1][C:2]([H:3])[C:4][O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],2.49495345248
[H:1][O:2][C:3]([C:4]#[C:5][H:6])[O:9][C:7][H:8]>>[H:1][O:2][c:3]1[c:4][c:5]([H:6])[c:7]([H:8])[o:9]1,-3.25702350213
[H:5].[O:1]=[C:2]([H:3])[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.9411787491800014
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7][O:8][H:9],5.25368454019
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.48875859809
[O:1]=[C:2]([H:3])[C:9](/[C:7](=[C:4]/[O:5][H:6])[H:8])([H:10])[H:11]>>[O:1][C@:2]1([H:3])[C:4]([O:5][H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],0.21932624498000006
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])/[C:5](=[C:7](\[H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:6],1.17034236247
[H:1][O:2][C:3]#[C:4].[O:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8],-1.4282409771200002
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1],3.43743912087
[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],0.0864657818993
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:8][C:9]([H:10])[H:11].[H:7]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]=[C:9]([H:10])[H:11],-1.95967123793
[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-5.52682053494
[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[O:8][H:9]>>[C:3]#[C:4][C:5]([O:6][H:7])[O:8][H:9].[H:1][C:2],7.494249679139999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12]/[C:13]([H:14])([H:15])[H:16].[H:6],1.77317989018
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4],0.923871420003
[C:4]([H:5])(=[C:6]=[C:10]([H:11])[C:13]([H:14])[H:15])[H:16].[H:1][C:2]([H:3])[C:7]([H:8])([H:9])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.88349297599
[H:9].[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8][O:10][H:11]>>[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[O:10][H:11],-3.81358858116
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.41562570413
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12][H:13],-0.911717691937
[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.5997133059399995
[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-5.87428310674
[C:1]#[C:2][C:5]([C:3]#[C:4])([H:6])[O:7][H:8]>>[C:1][C:2]1[C:3](=[C:4])[C@:5]1([H:6])[O:7][H:8],-1.42891422445
[C:4]=[C:9]([H:10])[H:11].[H:1][C:2][C:3]#[C:5][C:6]([H:7])([H:8])[H:12]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.11646840929
